Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Penicillins / Baby Powder / Cipro
 
Attending: ___.
 
Chief Complaint:
right leg cramping/numbness

 
Major Surgical or Invasive Procedure:
___ Diagnostic Right lower extremity angiograms

 
History of Present Illness:
___ y.o M well known to Dr. ___ multiple previous
vascular surgeries is now complaining of cramping and numbness 
in
his right lower leg from the knee down.  This happens after he
walks and also when is lying down in bed.  Resting will 
alleviate
the cramping most of the time but the numbness has been
persistently present.  He reports that his range of motion and
strength is preserved.  He is here for elective angiogram of his
right leg.

 
Past Medical History:
- PVD
- HTN
- DM
- Hyperlipidemia
- moderate aortic stenosis
- Chronic knee pain-on narcotics
PSH: open ccy (___), s/p R CEA (___), s/p R CFA to AK-pop w/
NRGSV (___), s/p CABG x 4 vessels (___) s/p L CFA to 
AK-pop
with L iliac PTA/stent and left ___ toe amputation (___)

 
Social History:
___
Family History:
N/C
 
Physical Exam:
VS: 97.8, 77 129/50 20 O2 sat 98%
Gen: AAOx3, mildly irritable
HENT: PERRLA, EOMI, anicteric, mucus membranes moist
Neck: supple, well healed R CEA scar, slight left carotid bruit
Chest: RRR, systolic murmus, lungs clear
Abdomen: obese, nontender, nondistended, well healed right
subcostal incision
Ext: warm, good cap refill, trace edema, no sensation in right
foot, left foot sensation intact, motor function intact, left 
___
toe amputation sight clean, no lesions on either foot

Pulses:    Fem     Pop     ___     DP
Right      Palp    Dopp    Tri    Tri
Left       Palp    Palp    Tri    Mono

 
Pertinent Results:
___ 05:30AM BLOOD WBC-6.5 RBC-3.48* Hgb-10.2* Hct-29.4* 
MCV-84 MCH-29.2 MCHC-34.6 RDW-13.8 Plt ___

___ 05:30AM BLOOD Glucose-35* UreaN-35* Creat-1.9* Na-140 
K-4.1 Cl-101 HCO3-30 AnGap-13

___ 12:55PM BLOOD Glucose-66* UreaN-34* Creat-1.8* Na-139 
K-3.8 Cl-101 HCO3-28 AnGap-14

___ 05:20PM BLOOD Glucose-37* UreaN-38* Creat-1.9* Na-138 
K-4.3 Cl-100 HCO3-26 AnGap-16

___ 05:30AM BLOOD Calcium-9.0 Phos-5.3*# Mg-2.8*

CHEST (PRE-OP PA & LAT) Study Date of ___ 6:00 ___ 
FINDINGS: There is stable mild cardiomegaly, clips and median 
sternotomy 
wires from prior CABG. The lungs are clear. There is no 
pneumonia. No 
pleural effusion or pneumothorax is seen. Minimal subsegmental 
atelectasis is seen at the left lung base. Possible contour 
abnormalities are noted in the anterior aspect of the lower 
right ribs, which may reflect changes from prior rib fractures. 
IMPRESSION: No acute intrathoracic process.
 
Brief Hospital Course:
___ Patient admitted to Vascular surgery/Dr. ___ 
w/ c/o right leg cramping/numbness, scheduled for right lower 
extremity angiogram in the AM. Routine nursing care, labs and 
CXR. Creatinine came back elevated at 1.9, IV hydrated w/ D5W 
and Sodium Bicarb, given  2 doses of Mucomyst prior to 
angiogram. Lasix and Lisinopril put on hold. Made NPO after 
midnight, pre-op and consented for right lower extremity 
angiogram.

___ HD1: No acute events. Having difficulty urinating, 
bladder scan showing 1L in bladder, foley catheter inserted. 
Taken to angio suite and underwent right lower extremity 
angiogram- that demonstrated patent grafts and stent. Patient 
tolerated procedure well, recovered in the PACU then transferred 
back to ___ 5 for further observation. Patient was on bedrest 
for the amount of time prescribed. Groin access is free of 
hematoma or bruising. Given 2 more doses of Mucomyst post angio. 
Foley catheter remained.

___ HD2/PAD1: No overnight events. Creatinine remained 
elevated 1.9, lasix and Lisinopril remain on hold- ___ w/ 
PCP next week to re-evaluate renal functions and resume/change 
meds as necessary. Foley remained in place, noted to have gross 
bloody urine-Urology consulted- Discharged to home with foley 
and ___ outpatient as scheduled. Will also ___ with Dr. ___ 
in ___ months.

 
Medications on Admission:
plavix 75mg po qd
cymbalta 60 mg po qd
carvedilol 12.5 mg po bid
lasix 40 po qd
hydroxyzine 25mg po tid
flomax 0.4 mg po qhs
lipitor 80 mg po qd
tricor 145 mg po qd
lisinopril 5 mg po qd
aspirin 81 mg po qd
NPH 70units Qam and Qpm 
Humalog sliding scale 
 
Discharge Medications:
1. Duloxetine 30 mg Capsule, Delayed Release(E.C.) Sig: Two (2) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
2. Clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
3. Carvedilol 12.5 mg Tablet Sig: One (1) Tablet PO BID (2 times 
a day).  
4. Hydralazine 25 mg Tablet Sig: One (1) Tablet PO TID (3 times 
a day).  
5. Tamsulosin 0.4 mg Capsule, Sust. Release 24 hr Sig: One (1) 
Capsule, Sust. Release 24 hr PO HS (at bedtime).  
6. Atorvastatin 80 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
7. Fenofibrate Micronized 145 mg Tablet Sig: One (1) Tablet PO 
qd ().  
8. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
9. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
10. NPH Insulin
NPH 70 units injection subcutaneously every morning and evening
11. Humalog insulin sliding scale
___ use home scale

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PVD
Urinary retention- requiring catherization, urology consulted- 
will D/C w/ indwelling catheter, ___ OP for voiding trials
Renal insufficiency- creatinine elevated upon admission
Diabetes- uncontrolled, RISS for glucose control
History of:
PVD
HTN
DM
hyperlipidemia
moderate aortic stenosis
chronic right knee pain
PSH: open ccy (___), s/p R CEA (___), s/p R CFA to AK-pop w/
NRGSV (___), s/p CABG x 4 vessels (___) s/p L CFA to 
AK-pop
with L iliac PTA/stent and left ___ toe amputation (___)

 
Discharge Condition:
Good

Creatinine 1.9

Foley in place.

 
Discharge Instructions:
Division of Vascular and Endovascular Surgery
Post Angiogram/Angioplasty Discharge Instructions
 
- Monitor your groin, call if pain, swelling, and bruising is 
noted
 
- No lifting or straining
 
- Stool softener while on pain medications
 
- If bleeding is noted in the groin, hold pressure and go to the 
ED
 
- Resume normal activities gradually
 
- Continue all medications as instructed 
 
- Call Dr. ___ for ___ appointment. Phone 
___

OTHER:
- Your creatinine was elevated upon admission therefore your 
Lasix and Lisinopril were held and not resumed, follow-up with 
your PCP next week to re-evaluate resuming these meds. Dr. 
___: ___

- You were found to be retaining urine, a foley catheter was 
placed and remained in place, you were seen by in Urology and 
you ___ w/ Dr. ___ for voiding trials on 
___ at 10:00 AM.
 
Followup Instructions:
___